US07375131B2
b). 2-Acetylamino-5-bromo-thiophene-3-carboxylic Acid Amide
2-Acetylamino-thiophene-3-carboxylic acid amide (3.89 g, 27.4 mmol) was suspended in the aqueous solution of sodium acetate (2.47 g, 30.1 mmol)(136 mL). Bromine (1.4 mL, 27.4 mmol) was added dropwise to the solution. The resulting solution was stirred under nitrogen overnight. Once the LC-MS showed no remaining starting materials, the reaction mixture was then filtered and washed with water (50 mL). The filtrate was then purified utilizing a Gilson preparative. HPLC to give the above titled compound as a brown solid (1 g, 13.8%). LC-MS [M+H]+ m/z 263.

reactant | 2-Acetylamino-thiophene-3-carboxylic acid amide | 27.4 mmol, 3.89 g | C(C)(=O)NC=1SC=CC1C(=O)N | C7H8N2O2S
reactant | sodium acetate | 30.1 mmol, 136 mL, 2.47 g | C(C)(=O)[O-].[Na+]
reactant | Bromine | 27.4 mmol, 1.4 mL | BrBr | Br2
product | 2-Acetylamino-5-bromo-thiophene-3-carboxylic Acid Amide | 1 g, 13.8% | C(C)(=O)NC=1SC(=CC1C(=O)N)Br | C7H7BrN2O2S
